US08609727B2
4-[4-(tert-Butoxycarbonyl)phenyl]-2-[4-(methoxycarbonyl)benzyl]butanoic Acid
A solution of 0.79 ml (5.66 mmol) of triethylamine and 0.16 ml (4.29 mmol) of formic acid in 10 ml of dioxane is added to a solution of 920 mg (1.71 mmol) of diallyl {2-[4-(tert-butoxycarbonyl)phenyl]ethyl}[4-(methoxycarbonyl)benzyl]malonate, 31.5 mg (0.12 mmol) of triphenylphosphine and 7.7 mg (0.03 mmol) of palladium acetate in 10 ml of dioxane at room temperature. The reaction mixture is then stirred at 100° C. for 12 hours. After conversion is complete, the reaction solution is cooled and the solvent is removed in vacuo. The resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 4:1→1:1). 497 mg (1.2 mmol, 61% yield) of a colourless solid are obtained.

reactant | triethylamine | 5.66 mmol, 0.79 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 4.29 mmol, 0.16 ml | C(=O)O | CH2O2
reactant | diallyl {2-[4-(tert-butoxycarbonyl)phenyl]ethyl}[4-(methoxycarbonyl)benzyl]malonate | 1.71 mmol, 920 mg | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CCC(C(=O)OCC=C)(C(=O)OCC=C)CC1=CC=C(C=C1)C(=O)OC | C31H36O8
reactant | triphenylphosphine | 0.12 mmol, 31.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.03 mmol, 7.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[4-(tert-Butoxycarbonyl)phenyl]-2-[4-(methoxycarbonyl)benzyl]butanoic Acid | 1.2 mmol, 497 mg, 61% yield | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)CCC(C(=O)O)CC1=CC=C(C=C1)C(=O)OC | C24H28O6
